US08669254B2
6-Chloro-3-cyclopropylmethoxy-4-iodo-pyridazine
To a solution of 0.988 ml 2,2,6,6-tetramethylpiperidine in 10 ml tetrahydrofurane was added 3.534 ml of a 1.6M solution of n-butyl lithium in hexane at ambient temperature and the mixture was stirred at room temperature for 30 min. To this solution was added rapidly a precooled (−75° C.) solution of 0.300 g 3-chloro-6-cyclopropylmethoxy-pyridazine in 10 ml tetrahydrofuran at −75° C. After 5 minutes, a precooled solution of 0.701 g iodine in 10 ml THF was added rapidly. The reaction mixture was stirred at −75° C. for 30 minutes and then quenched with a saturated aqueous solution of ammonium chloride and diluted with ethyl acetate. The phases were separated and the organic phase was purified by chromatography on silica gel using a gradient of heptane:ethyl acetate=95:5 to 50:50 to yield 0.206 g of the title compound as light yellow solid. MS (EI): 310.9 (M+H).

reactant | 2,2,6,6-tetramethylpiperidine | 0.988 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-chloro-6-cyclopropylmethoxy-pyridazine | 0.300 g | ClC=1N=NC(=CC1)OCC1CC1 | C8H9ClN2O
reactant | iodine | 0.701 g | II | I2
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-Chloro-3-cyclopropylmethoxy-4-iodo-pyridazine | 0.206 g | ClC1=CC(=C(N=N1)OCC1CC1)I | C8H8ClIN2O
